US09260440B2
To a solution of 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one (100 mg, 0.39 mmol) in dry DMF (8 mL) was added NaH (47 mg, 1.95 mmol) under ice bath. The reaction was stirred at 0° C. for 40 minutes. 2-(2-Bromoethoxy)tetrahydro-2H-pyran (194 mg, 1.17 mmol) was added to the mixture at 0° C. and the reaction was stirred at room temperature for 6 hours. Then water (100 mL) was added to the mixture, extracted with DCM (50 mL×3) and EA (50 mL×3). The organic layers were combined, washed with brine and dried over Na2SO4. The organic phase was concentrated to provide crude product. Then the crude product was dissolved in MeOH (15 mL), p-TSA.H2O (100 mg, 0.52 mmol) was added to the solution and the mixture was stirred at room temperature for 16 hours. Water (150 mL) was added to the mixture, extracted with EA (50 mL×3). The combined organic layers were washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated The residue was purified by Pre-TLC (DCM/MeOH=10/1) to provide 40 mg (30%) of 5,10-bis(2-hydroxyethyl)-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one as yellow solid. 1H NMR (DMSO-d6) δ 7.57 (m, 2H), 7.15 (dd, 1H, J=7.2, 8.4 Hz), 4.88 (t, 1H, J=5.4 Hz), 4.61 (t, 1H, J=6.0 Hz), 4.21 (t, 2H, J=5.4 Hz), 3.94 (t, 2H, J=6.6 Hz), 3.94 (t, 2H, J=6.6 Hz), 3.63-3.68 (m, 2H), 2.77 (s, 2H), 2.28 (s, 2H), and 1.08 (s, 6H). MS (ESI) m/e [M+1]+ 342.2.

reactant | 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 0.39 mmol, 100 mg | CC1(CC=2NC=3C=CC=C4C3C2C(C1)=NNC4=O)C | C15H15N3O
reactant | NaH | 1.95 mmol, 47 mg | [H-].[Na+]
reactant | 2-(2-Bromoethoxy)tetrahydro-2H-pyran | 1.17 mmol, 194 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | p-TSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 15 mL | CO | CH4O
solvent | Water | 150 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | H2O | 0.52 mmol, 100 mg | O | H2O
product | 5,10-bis(2-hydroxyethyl)-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 40 mg, 30% | OCCN1N=C2CC(CC=3N(C=4C=CC=C(C4C23)C1=O)CCO)(C)C | C19H23N3O3
